US08486962B2
A solution of diethyl-(2-methyl-4-nitro-phenyl)-amine (340 mg, 1.634 mmol) in methanol (10 ml) was hydrogenated over 10% Pd—C (50 mg) at room temperature and atmospheric pressure until no more gas absorption occurred. The reaction mixture was filtered over celite and the filtrate concentrated to dryness to give N1,N1-Diethyl-2-methyl-benzene-1,4-diamine (243 mg, 46.5%) as oil.

reactant | diethyl-(2-methyl-4-nitro-phenyl)-amine | 1.634 mmol, 340 mg | C(C)N(C1=C(C=C(C=C1)[N+](=O)[O-])C)CC | C11H16N2O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | N1,N1-Diethyl-2-methyl-benzene-1,4-diamine | 243 mg, 46.5% | C(C)N(C1=C(C=C(C=C1)N)C)CC | C11H18N2
